US06544985B2
3-[2-(3-Methyl-isoxazol-5-yl)-pyridin-4-yl]-3-oxo-propionic acid tert.-butyl ester
The title compound was prepared from 2-(3-methyl-isoxazol-5-yl)-isonicotinic acid methyl ester [prepared by i.) reaction of 2-iodo-isonicotinic acid methyl ester [CAS-No. 134579-47-8] with trimethylsilylacetylene according to general procedure H; ii.) desilylation by reaction with cat. K2CO3 in MeOH at 0° C. for 4 h; iii.) cycloadditon with a mixture of NCS, acetaldoxime, Et3N and cat. amount of pyridine in CHCl3 at 50° C. according to Tetrahedron 1984, 40, 2985-2988] by treatment with lithium tert.-butyl acetate according to general procedure K (method b). Obtained as a brown solid (5.17 g).

reactant | 2-(3-methyl-isoxazol-5-yl)-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)C1=CC(=NO1)C)=O | C11H10N2O3
reactant | 2-iodo-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)I)=O | C7H6INO2
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | acetaldoxime | C(C)=NO | C2H5NO
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
solvent | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | Et3N | CCN(CC)CC | C6H15N
product | 3-[2-(3-Methyl-isoxazol-5-yl)-pyridin-4-yl]-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C1=CC(=NO1)C)=O | C16H18N2O4
